US06248766B1
[(2-Benzylthio-8H-indeno[1,2-d]thiazol-7-yl)oxy]acetic Acid
Using ethyl[(2-mercapto-8H-indeno[1,2-d]thiazol-7-yl)oxy]acetate and benzyl bromide, the procedure of Example 1 was otherwise repeated to synthesize the title compound. Yield 21%.

reactant | ethyl[(2-mercapto-8H-indeno[1,2-d]thiazol-7-yl)oxy]acetate | C(C)OC(COC=1C=2CC3=C(N=C(S3)S)C2C=CC1)=O | C14H13NO3S2
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | [(2-Benzylthio-8H-indeno[1,2-d]thiazol-7-yl)oxy]acetic Acid | Yield 21% | C(C1=CC=CC=C1)SC=1SC2=C(N1)C=1C=CC=C(C1C2)OCC(=O)O | C19H15NO3S2
